US04443447
To a solution of 0.0997 g of sodium hydroxide in 40 ml of water was added 0.8 g of 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid. The mixture was heated briefly until the carboxylic acid dissolved. The solution was then filtered and the filtrate obtained was then evaporated to provide a residue. The residue was dissolved in 50 ml of water, the solution filtered and the filtrate was lyophilized to provide light tan solid, sodium 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate, m.p. 236° C. (dec.). Analysis: Calculated for C19H14NNaO4.1.5H2O: %C, 61.6; %H, 4.6; %N, 3.8; Found: %C, 61.4; %H, 4.3; %N, 3.6. The structural assignment was confirmed by infrared spectral analysis.

reactant | sodium hydroxide | 0.0997 g | [OH-].[Na+]
reactant | 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.8 g | CC1COC=2C=3N1C=C(C(C3C=CC2C2=CC=CC=C2)=O)C(=O)O | C19H15NO4
solvent | water | 40 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | sodium 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate | CC1COC=2C=3N1C=C(C(C3C=CC2C2=CC=CC=C2)=O)C(=O)[O-].[Na+] | InChI=1S/C19H15NO4.Na/c1-11-10-24-18-13(12-5-3-2-4-6-12)7-8-14-16(18)20(11)9-15(17(14)21)19(22)23;/h2-9,11H,10H2,1H3,(H,22,23);/q;+1/p-1
